US08710243B2
2-bromo-3-(4-methoxyphenyl)-1H-indole (93 mg, 0.31 mmol), 3 mol % tetrakis(triphenylphosphine)palladium and 3,5-dimethylisoxazol-4-ylboronic acid (3 eq) were mixed in 1.5 ml degassed DME under nitrogen. 1.24 ml sodium hydrogen carbonate (1 M) was added drop wise over 5 min. The resulting mixture was stirred at 90° C. for 45 min and then cooled to rt. The solvent was evaporated under nitrogen flow and the residue was taken up in DCM. Filtering through a short plug of silica gave a crude product which was purified again on silica (EtOAc/n-Heptane 1:9-3:7). 40.5 mg 4-(3-(4-methoxyphenyl)-1H-indol-2-yl)-3,5-dimethylisoxazole was obtained as a yellow solid.

reactant | 2-bromo-3-(4-methoxyphenyl)-1H-indole | 0.31 mmol, 93 mg | BrC=1NC2=CC=CC=C2C1C1=CC=C(C=C1)OC | C15H12BrNO
reactant | 3,5-dimethylisoxazol-4-ylboronic acid | 3 eq | CC1=NOC(=C1B(O)O)C | C5H8BNO3
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3-(4-methoxyphenyl)-1H-indol-2-yl)-3,5-dimethylisoxazole | 40.5 mg | COC1=CC=C(C=C1)C1=C(NC2=CC=CC=C12)C=1C(=NOC1C)C | C20H18N2O2
